* C:\Users\Mathias\Desktop\ST-375\rapportAfsnit\eProblemloesning\Design\Forstaerker\Forstærker - faktor 3.asc
V1 Vin 0 1.3554
V2 Vcc 0 7
V3 Vdd 0 -7
R2 N001 0 10K
R1 Vout N001 20K
XU1 Vin N001 Vcc Vdd Vout LT1028
* Av = 1+ (R1/R2)
.tran 1
* Ikke-inverterende forstærker - faktor 3
.lib LTC.lib
.backanno
.end
