* C:\Users\Mathias\Desktop\ST-375\rapportAfsnit\eProblemloesning\Design\Forstaerker\Forstærker - faktor 3.asc
V1 Vin 0 1.3554
V2 Vcc 0 7
V3 Vdd 0 -7
R2 N001 0 10K
R1 Vout N001 20K
XU1 Vin N001 Vcc Vdd Vout TL081
.tran 1
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\sub\TL081.MOD
.backanno
.end
