* C:\Users\User\Desktop\ST-375\rapportAfsnit\eProblemloesning\Design\Forstaerker\Forstærker - faktor 3.asc
V1 Vin 0 1
V2 Vcc 0 5.5
V3 Vdd 0 -5.5
R2 N001 0 10K
R1 Vout N001 26K
XU1 Vin N001 Vcc Vdd Vout TL081
.tran 1
.lib C:\Program Files\LTC\LTspiceIV\lib\sub\TL081.MOD
.backanno
.end
